US07906645B2
To a stirred solution of tert-butyl 3-[(4-{[(3,4-dichlorophenyl)amino]carbonyl}piperazin-1-yl)carbonyl]pyrrolidine-1-carboxylate (3.39 g, 7.19 mmol) in THF (60 ml) was added a 1M solution of borane in THF (21.6 ml, 21.6 mmol) and the reaction heated to reflux for 4 hours. The cooled reaction mixture was then cautiously quenched by addition of methanol then solvents removed in vacuo to give a white solid. To this was then added saturated HCl in methanol (150 ml) and heated to reflux for 1 hour. The reaction mixture was then evaporated to dryness, partitioned between 2M NaOH and DCM, extracted twice, combined organics dried (Na2SO4), filtered and evaporated to a colorless oil. This was then purified on Isco™ Companion (40 g column: 20% methanolic ammonia/DCM) to give the product N-(3,4-dichlorophenyl)-4-(pyrrolidin-3-ylmethyl)piperazine-1-carboxamide as a white foam (444 mg, 1.24 mmol, 17%).

reactant | tert-butyl 3-[(4-{[(3,4-dichlorophenyl)amino]carbonyl}piperazin-1-yl)carbonyl]pyrrolidine-1-carboxylate | 7.19 mmol, 3.39 g | ClC=1C=C(C=CC1Cl)NC(=O)N1CCN(CC1)C(=O)C1CN(CC1)C(=O)OC(C)(C)C | C21H28Cl2N4O4
reactant | borane | B | BH3
reactant | HCl | Cl | ClH
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | methanol | 150 ml | CO | CH4O
solvent | THF | 21.6 mmol, 21.6 ml | C1CCOC1 | C4H8O
product | N-(3,4-dichlorophenyl)-4-(pyrrolidin-3-ylmethyl)piperazine-1-carboxamide | 1.24 mmol, 444 mg, 17% | ClC=1C=C(C=CC1Cl)NC(=O)N1CCN(CC1)CC1CNCC1 | C16H22Cl2N4O
